US05403854
Preparation of 3-(quinolin-8-ylamino)-4-ethoxy-cyclobut-3-ene -1,2-dione
To a solution of 8-aminoquinoline (1.00 g, 6.94 mmol) in ethanol (20 mL) was added 3,4-diethoxy-3-cyclobutene-1,2-dione (1.03 mL, 6.94 mmol) and the resulting mixture was heated to reflux for 24 hours. The mixture was cooled, diluted with ethanol, and filtered. The crude product was triturated with chloroform/hexanes, then purified by chromatography (EtOAc/hexane) to give 1.31 g (70%) of product: 1H NMR (DMSO-d6) δ9.75 (br m, 1H), 8.86 (dd, 1H), 8.26 (br m, 1H), 8.20 (dd, 1H), 7.57 (m, 2H), 7.53 (dd, 1H), 4.95 (q, 2H), 1.59 (t, 3H).

reactant | 8-aminoquinoline | 6.94 mmol, 1.00 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 6.94 mmol, 1.03 mL | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(quinolin-8-ylamino)-4-ethoxy-cyclobut-3-ene -1,2-dione | 1.31 g, 70% | N1=CC=CC2=CC=CC(=C12)NC=1C(C(C1OCC)=O)=O | C15H12N2O3
